US04061761
4-(4-Chloro-3-o-chlorobenzylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrochloride
8 g of 4-(4-chloro-3-o-chlorobenzylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol were reacted as prescribed in Example 3c) with ethanolic HCl solution and the end product was precipitated by adding ethyl acetate. Colorless crystals, melting point: 170° C (decomposition).

reactant | 4-(4-chloro-3-o-chlorobenzylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol | 8 g | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(NCC1=C(C=CC=C1)Cl)(=O)=O | C18H19Cl2N3O3S2
reactant | HCl | Cl | ClH
product | 4-(4-Chloro-3-o-chlorobenzylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(NCC1=C(C=CC=C1)Cl)(=O)=O | InChI=1S/C18H19Cl2N3O3S2.ClH/c1-21-17-23(2)18(24,11-27-17)13-7-8-15(20)16(9-13)28(25,26)22-10-12-5-3-4-6-14(12)19;/h3-9,22,24H,10-11H2,1-2H3;1H
